US09215876B2
Attempted preparation of 6-Boc-1,3,6-dioxazocan-2-one (DXA-Boc)
The procedure of Example 1 was followed using N-boc diethanolamine (3 g, 14.6 mmol), triethylamine (4.1 mL, 29.2 mmol), dry dichloromethane (100 mL) and triphosgene (1.4 g, 4.9 mmol). The filtrate was concentrated yielding only oligomeric compounds.

reactant | N-boc diethanolamine | 14.6 mmol, 3 g | C(=O)(OC(C)(C)C)N(CCO)CCO | C9H19NO4
reactant | triethylamine | 29.2 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 4.9 mmol, 1.4 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-Boc-1,3,6-dioxazocan-2-one | C(=O)(OC(C)(C)C)N1CCOC(OCC1)=O | C10H17NO5
